Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy and plastic stent placement ___
 
History of Present Illness:
This is a ___ year old male with past medical history of
hypertension, chronic fatigue that he attributes to "chronic 
lyme
disease", who presents with 1 week of dark urine and light
stools, followed by 2 days of jaundice, referred by PCP to
___ for abnormal LFTs, referred to ___ ___ with CT
scan that showing biliary obstruction and possible pancreatic
head abnormality.  Patient reports 1 week prior to presentation
he noted darkening of his urine, lightening of his stool.  No
associated abdominal pain, fevers, chills.  Does report ___
weight loss over summer, but reports this happens most summers
due to his increased activity.  No associated abdominal pain or
nausea.  3 days prior to presentation he saw  his PCP and had
LFTs checked--per patient report, they were abnormal, prompting
referral to ___.  

Unable to access to the ___ records via Magic Button, but
per provided history, at ___ he was noted again to have
elevated LFTs and CT scan showing marked intra and extrahepatic
biliary ductal dilation, with abrupt caliber change at the level
of the pancreatic head.  Patient was transferred to ___ for
further management. 

In ___ ___, initial VS were 97.5 67 167/91 18 96% RA.  Exam
reported as notable for jaundice, "Abd: soft, nondistended,
mildly tender to palpation".  Labs notable for WBC 9.2, Hgb 
14.6,
Plt 175, ALT 884, AST 472, AP 244, Tbili 6.3 (dbili 4.2), lipase
32.  RUQ ultrasound redmonestrated intra and extra hepatic
biliary dilation.  Advanced endoscopy consult requested who
recommended ERCP.  Patient admitted to medicine and was seen by
___. 

On evaluation patient denied abdominal pain, cramping.  Did
report 2 loose stools after drinking barium for CT scan--this 
has
not recurred.  No fevers/chills.  No confusion. 

Full 10 point review of systems positive where noted, otherwise
negative. 
 
Past Medical History:
Hypertension
Chronic fatigue that he believes is caused by "chronic lyme"
BPH
Generalized anxiety
 
Social History:
___
Family History:
Brother and mother both died of pancreatic cancer. 
 
Physical Exam:
ADMISSION EXAM:
VS: 98 65 140/90 18 96% RA
Gen - sleeping, awakening to voice then sitting up in bed,
comfortable appearing; +jaundice
Eyes - EOMI; PERRL; +icterus
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender; negative murphys; normal bowel sounds 
Ext - no edema
Skin - jaundice; no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate  

DISCHARGE EXAM:
VS: 
___ 0712 Temp: 98.3 PO BP: 165/92 L Lying HR: 57 RR: 18 O2
sat: 98% O2 delivery: RA 
___ 0811 Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae icteric, OP
clear, MMM.
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, + bowel sounds.
EXTR: No lower leg edema
DERM: No active rash.  Jaundice noted
Neuro: moving all four extremities purposefully, non-focal.
PSYCH: Appropriate and calm.
 
Pertinent Results:
ADMISSION LABS
--------------
___ 07:26PM BLOOD WBC-9.2 RBC-4.96 Hgb-14.6 Hct-45.3 MCV-91 
MCH-29.4 MCHC-32.2 RDW-16.8* RDWSD-55.8* Plt ___
___ 07:26PM BLOOD Neuts-61.2 ___ Monos-10.9 Eos-5.1 
Baso-1.2* Im ___ AbsNeut-5.62 AbsLymp-1.97 AbsMono-1.00* 
AbsEos-0.47 AbsBaso-0.11*
___ 05:40AM BLOOD ___ PTT-32.2 ___
___ 07:26PM BLOOD Glucose-99 UreaN-11 Creat-0.8 Na-142 
K-4.6 Cl-104 HCO3-25 AnGap-13
___ 07:26PM BLOOD ALT-884* AST-472* AlkPhos-244* 
TotBili-6.3* DirBili-4.2* IndBili-2.1
___ 07:26PM BLOOD Albumin-4.4
___ 05:40AM BLOOD Albumin-3.9 Calcium-9.5 Phos-2.9 Mg-1.8
___ 03:50PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HBc-PND
___ 03:50PM BLOOD HBV VL-PND

IMAGING
-------
MRCP ___:
1. 2.2 cm hypoenhancing mass in the pancreatic head, suspicious 
for pancreatic adenocarcinoma, for which EUS with biopsy is 
recommend. No evidence of vascular involvement. 
2. Status post common bile duct stenting, with a stricture in 
the mid common bile duct spanning approximately 3 cm. No 
intrahepatic biliary duct 
dilatation. 
3. Enhancement of the common bile duct wall, consistent with 
cholangitis, 
likely secondary recent ERCP with stent placement. 
4. Porta hepatis lymph nodes measuring up to 1.3 cm. 
5. Redemonstration of a 8 cm lobulated partially calcified mass 
with 
peripheral septations and nodular components arising from the 
right adrenal gland, for which surgical consultation is again. 
6. Left adrenal adenomas. 
  
RECOMMENDATION(S):  
1.  EUS with biopsy of a pancreatic head mass. 
2.  Surgical consultation for a right adrenal lesion. 

CTA A/P ___:
1. There is ill-defined soft tissue adjacent to the common bile
duct stent and pancreatic head without a definite mass.  
However,
pancreatic cancer or cholangiocarcinoma cannot be excluded. 
There are associated enlarged gastroduodenal and portacaval 
lymph
nodes.
2. The distal gastroduodenal artery and main portal vein closely
abut this region of ill-defined soft tissue.  However, on the
prior study the portal vein was demonstrated to be clearly
separate from this area because of the dilated bile duct.
3. 8.1 x 4.9 cm lobulated, partly calcified mass with thin
peripheral nodular enhancing components likely arises from the
right adrenal gland.  This appears indeterminate and surgical
consult is recommended for adrenalectomy.  If the lesion is not
resected, recommend close interval follow-up in 3 months with
either contrast enhanced CT or MRI.
4. Interval placement of a common bile duct stent with 
resolution
of intra and extrahepatic biliary ductal dilatation.
5. Mild gallbladder wall edema is nonspecific, likely
inflammatory.
6. Evidence of chronic pancreatitis with an 8 mm hypoattenuating
lesion in the pancreatic body, which likely represents a
pancreatic cyst or IPMN.  Further evaluation with MRCP or
endoscopic ultrasound is recommended.
7. Extensive atherosclerotic disease with focal aneurysmal
dilatation of the right common iliac artery measuring up to 2.8
cm.
8. Please refer to dedicated CT chest performed on same day for
description of intrathoracic findings.

CT chest with contrast ___:
1. Prominent mediastinal and right hilar lymph nodes measuring 
up
to 9 mm.
2. A cluster of micro nodules in the left lower lobe is
nonspecific, likely inflammatory versus infectious in etiology. 
Attention on follow-up is recommended.
3. Moderate centrilobular and paraseptal emphysema, most
pronounced in the right upper lobe.
4. Please refer to dedicated CT abdomen pelvis performed on the
same day for description of subdiaphragmatic findings.

ERCP ___:
2 cm long, malignant-appearing stricture at the mid-CBD noted. 
There was upstream biliary dilation seen.  Sphincterotomy
performed, with no evidence of bleeding afterwards.  Cytology
brushings were performed at stricture.  Plastic biliary stent 
was
placed successfully.  EUS scope inserted but patient 
continuously
coughing with bleeding noticed, which then stopped.  EUS was
deferred.

CT scan (___) ___ - as reported by ___ dashboard 
(magic
button access not available)
Liver: marked intra and extrahepatic biliary dilation.
Extrahepatic bile duct measures up to 16mm with abrupt caliber
change as the duct enters the pancreatic head. The distal duct 
is
visualized in the ampulla is likely normal. There is obvious
obstruction of the distal common bile duct likely neoplastic
Gallbladder: gallbladder appears moderately distended. The 
cystic
duct is not well visualized
Pancreas: diffuse calcifications in pancreas, fullness adjacent
to the pancreatic head where there is an extrahepatic ductal
change. This area is not well characterized. The pancreatic duct
is visualized in the pancreatic head but is not overtly dilated
in the body and talk of pancreas.
IMPRESSION:
1. Significant intra and extrahepatic biliary dilation with
abrupt caliber change of the extrahepatic common bile duct in 
the
region of the pancreatic head where there is a high-grade
obstruction of the distal extrahepatic biliary duct. Findings
could be related to pancreatic mass or intrinsic biliary ductal
mass. The distal bile duct pancreatic duct and ampulla are 
likely
normal.
2. Extensive chronic pancreatitis. The pancreatic duct is not
dilated in the body or tail of the pancreas and is relatively
normal in caliber in the distal common bile duct region 

LIVER OR GALLBLADDER US
1. Moderate to severe intrahepatic biliary dilatation.
2. Extra-hepatic biliary dilatation, with the distal CBD
measuring up to 1 cm.
No definite cause identified.  MRCP or ERCP recommended.
RECOMMENDATION(S):  MRCP or ERCP recommended.

MICROBIOLOGY
------------
___ 10:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

Blood culture x ___: NGTD, pending

DISCHARGE LABS
--------------
___ 08:40AM BLOOD WBC-9.4 RBC-5.11 Hgb-14.8 Hct-45.1 MCV-88 
MCH-29.0 MCHC-32.8 RDW-16.3* RDWSD-52.9* Plt ___
___ 08:40AM BLOOD ___ PTT-31.8 ___
___ 08:40AM BLOOD Glucose-116* UreaN-9 Creat-0.7 Na-143 
K-3.8 Cl-103 HCO3-27 AnGap-13
___ 08:40AM BLOOD ALT-522* AST-137* LD(LDH)-179 
AlkPhos-196* TotBili-2.3*
___ 08:40AM BLOOD Calcium-10.0 Phos-2.2* Mg-1.___ year old male with past medical history of hypertension, 
strong family history for pancreatic cancer, presenting with 
dark urine, light stools and jaundice, found to have abnormal 
LFTs and imaging with signs of biliary obstruction. 

# Biliary obstruction
# Abnormal LFTs
# Likely pancreatic cancer
Patient with history and imaging suggestive of biliary 
obstruction; LFTs elevated in pattern of biliary obstruction; 
based on imaging and family history of pancreatic cancer, 
concern pancreatic cancer may be etiology; alternately stones 
(not seen on imaging), stricture, or impingement from mass of 
other etiology are possible; currently no pain, leukocytosis or 
fevers would suggest no concurrent infection (e.g. cholangitis). 
 His diet was advanced without a problem.  LFTs downtrended 
after ERCP and stent placement.  Cultures are negative to date.  
Brushings were pending at time of discharge.  CTA torso was not 
definitive, and MRCP was performed, showing a mass in the 
pancreatic head and recommended biopsy.  He will follow up with 
ERCP closely

# Right adrenal mass: unclear cause.  Surgery consulted and 
recommend outpatient follow-up with Endocrine Surgery.  
Endocrine also consulted and recommend functional testing, and 
close follow-up.

# Hypertension: lisinopril was continued during stay, HCTZ held. 
 He will resume lisinopril-HCTZ on discharge.

# GERD: continued omeprazole 

# Generalized Anxiety: continued sertraline

# Chronic fatigue
Patient believes this is from "chronic lyme"; current literature 
does not support this as an actual disease process.  He was 
continued on home amphetamines.

# BPH: home tadalafil is non-formulary; patient brought in own 
from home.

TRANSITIONS OF CARE
-------------------
# Follow-up: patient will follow up with ERCP team, Endocrine 
Surgery and Endocrinology, as well as his PCP.  Patient will 
schedule all of these appointments.  There are several pending 
endocrinology labs pending at the time of discharge, which will 
need to be followed up.  CBD brushing biopsy will need to be 
followed up.  Culture data will need to be followed up.
 
# Code status: Full, presumed
# Contact: Patient; Wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. tadalafil 5 mg oral DAILY 
2. Sertraline 25 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
5. dextroamphetamine-amphetamine 5 mg oral BID 

 
Discharge Medications:
1.  dextroamphetamine-amphetamine 5 mg oral BID  
2.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
3.  Omeprazole 40 mg PO DAILY  
4.  Sertraline 25 mg PO DAILY  
5.  tadalafil 5 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bile duct stricture and obstruction
Adrenal mass
Jaundice

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with jaundice.  
Further testing showed that you have a stricture in your bile 
duct, as well as a new mass in your adrenal gland.  You are now 
being discharged.

It is very important that you continue to take your medications 
as prescribed and follow up with all recommended appointments.

Good luck!

 
Followup Instructions:
___